US06632810B2
Synthesis of N,N′-bis[3-(5,6,7-trimethoxynaphthalen-2-yl)propyl]piperazine:
2-(3-Methanesulfonyloxypropyl)-5,6,7-trimethoxynaphthalene (213 mg) and piperazine (26 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 2-(3-Methanesulfonyloxypropyl)-5,6,7-trimethoxynaphthalene | 213 mg | CS(=O)(=O)OCCCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C17H22O6S
reactant | piperazine | 26 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[3-(5,6,7-trimethoxynaphthalen-2-yl)propyl]piperazine | COC1=C2C=CC(=CC2=CC(=C1OC)OC)CCCN1CCN(CC1)CCCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C36H46N2O6
